US08895313B2
2-(4-Nitrophenyl)-6-methoxybenzothiazole
A mixture of 2-amino-5-methoxybenzenethiol (5.0 g, 32.2 mmol) and 4-nitrobenzoyl chloride (6.0 g, 32.2 mmol) in toluene (250 ml) was heated under reflux with a catalytic amount of 4-toluenesulphonic acid in a Dean-Stark trap for 6 h. On cooling to room temperature the precipitate was collected by filtration, washed with toluene and recrystallised from AcOH to give the title compound (7.0 g, 76%) as a pale yellow solid.

reactant | 2-amino-5-methoxybenzenethiol | 32.2 mmol, 5.0 g | NC1=C(C=C(C=C1)OC)S | C7H9NOS
reactant | 4-nitrobenzoyl chloride | 32.2 mmol, 6.0 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | 4-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Nitrophenyl)-6-methoxybenzothiazole | 7.0 g, 76% | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H10N2O3S
